US06515011B2
3-Phenylprolyl-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide
To a stirred solution of diastereomer A of 1-(tert-butoxylcarbonyl)-3-phenylprolyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide (60 mg, 0.09 mmol) from the previous step in approx. 2 mL MeOH at room temperature was added excess of a solution of 1.0 M HCl in ether. The reaction was monitored for completeness by LCMS. The solvent was removed in vacuo to give the HCl salt of the title compound as a white solid. LCMS RT=0.94 min. LCMS (M+H)=441.1. 1H NMR (CD3OD, 500 MHz): δ 7.50-7.23 (m, 8H), 4.58-4.51 (m, 1H), 4.41-4.24 (m, 3H), 4.08-3.96 (m, 1H), 3.80-3.74 (m, 1H), 3.49-3.43 (m, 1H), 3.39-3.31 (m, 3H), 3.05-2.92 (m, 1H), 2.57-2.37 (m, 2H), 2.06-1.64 (m, 2H), 1.56-1.26 (m, 2H). Diastereomer B (73 mg, 0.11 mmol) was deprotected in similar fashion to afford the HCl salt of the title compound as a white solid. LCMS RT=0.98 min. LCMS (M+H)=441.2. 1H NMR (CD3OD, 400 MHz): δ 8.90 (m, 1H), 7.49-7.32 (m, 8H), 4.49 (d, J=15.6 Hz, 1H), 4.31 (d, J=15.6 Hz, 1H), 4.23 (s, 2H), 4.02-3.95 (m, 1H), 3.90-3.87 (m, 1H), 3.79-3.75 (m, 1H), 3.48-3.30 (m, 2H), 3.13-3.03 (m, 1H), 2.91-2.85 (m, 1H), 2.50-2.43 (m, 1H), 2.39-2.28 (m, 1H), 1.73-1.59 (m, 3H), 1.18-1.12 (m, 1H).

reactant | 1-(tert-butoxylcarbonyl)-3-phenylprolyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide | 0.09 mmol, 60 mg | O(C(C)(C)C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)NCC3=C(C=CC(=C3)Cl)CNC(=O)OC(C)(C)C)CCC2)C(CC1)C1=CC=CC=C1 | C34H45ClN4O6
reactant | HCl | 1.0 M | Cl | ClH
solvent | MeOH | approx. 2 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 3-Phenylprolyl-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | C1(=CC=CC=C1)C1[C@H](NCC1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1 | C24H29ClN4O2
